US05120729
Preparation of (±)-cis-3-Ethyl-4-methoxymethyl-N-toluenesulfonyl-2-azetidinone
To (±)-cis-3-Ethyl-4-hydroxymethyl-N-toluensulfonyl-2-azetidinone (18 mg) in CH2Cl2 at 0° to 5° C. was added boron trifluoride etherate solution (1 drop) and then diazomethane-ether solution dropwise (4 ml). The reaction mixture was purified by preparative TLC on a silica gel plate (1500μ) and developed with CH2Cl2 to afford the titled compound. NMR(CDCl3): δ1.04(3H, t), 1.54-1.92(2H, m) 2.45(3H, s), 3.16(1H, m), 3.26(3H, s), 3.70(2H, m ), 4.18(1H, m), 7.34(2H, d), 7.88(2H, d).

reactant | (±)-cis-3-Ethyl-4-hydroxymethyl-N-toluensulfonyl-2-azetidinone | 18 mg | C(C)[C@@H]1C(N([C@@H]1CO)S(=O)(=O)C=1C(=CC=CC1)C)=O | C13H17NO4S
reactant | CH2Cl2 | C(Cl)Cl | CH2Cl2
catalyst | boron trifluoride etherate | 1 drop | B(F)(F)F.CCOCC
product | (±)-cis-3-Ethyl-4-methoxymethyl-N-toluenesulfonyl-2-azetidinone | C(C)[C@@H]1C(N([C@@H]1COC)S(=O)(=O)C=1C(=CC=CC1)C)=O | C14H19NO4S
